US06541499B1
C. 4-[2-(1-Pyrrolidinyl)ethoxy]benzoic Acid Hydrochloride
Methyl 4-[2-(1-pyrrolidinyl)ethoxy]benzoate (5.3 g, 21.2 mol) in 1 N aqueous HCl (50 mL) was heated at reflux for 18 h. The reaction mixture was washed with ethyl acetate (2×20 mL). The aqueous solvent was removed under reduced pressure to give the desired acid as a white solid (5.55 g, 96%) after drying under vacuum at ambient temperature.

reactant | Methyl 4-[2-(1-pyrrolidinyl)ethoxy]benzoate | 21.2 mol, 5.3 g | N1(CCCC1)CCOC1=CC=C(C(=O)OC)C=C1 | C14H19NO3
reactant | HCl | 1 N, 50 mL | Cl | ClH
product | 4-[2-(1-Pyrrolidinyl)ethoxy]benzoic Acid Hydrochloride | 5.55 g, 96% | Cl.N1(CCCC1)CCOC1=CC=C(C(=O)O)C=C1 | InChI=1S/C13H17NO3.ClH/c15-13(16)11-3-5-12(6-4-11)17-10-9-14-7-1-2-8-14;/h3-6H,1-2,7-10H2,(H,15,16);1H
